US08003785B2
A mixture of 0.08 g (0.25 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20) and 0.075 g (0.25 mmole) of 4-amino-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide and 0.072 g (0.38 mmole) of p-toluenesulfonic acid monohydrate in 3 mL of isopropanol was stirred in a sealed tube at 140 degrees overnight. The mixture was cooled, and dichloromethane and saturated sodium carbonate were added. The mixture was extracted twice with dichloromethane. The combined organic layers were washed three times with sodium carbonate three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-90:10) gave 0.080 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide (I-75).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.25 mmole, 0.08 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide | 0.25 mmole, 0.075 g | NC1=C(C=C(C(=O)NC2CCN(CC2)CCF)C=C1)OC | C15H22FN3O2
reactant | p-toluenesulfonic acid monohydrate | 0.38 mmole, 0.072 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide | 0.080 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CCF)C=C2)OC | C28H36F3N7O3
